US06538007B1
To an ice-cooled solution of N-(t-butoxycarbonyl)-2(S)-acetylamino-β-alanine benzyl ester (3.44 g) in ethyl acetate (35 ml) was added 4N HCl in ethyl acetate (25.5 ml). The mixture was stirred for 2.5 hours at an ambient temperature, then the solvent was decanted. The residue was washed with diethyl ether several times, and dried in vacuo to give 2(S)-acetylamino-β-alanine benzyl ester hydrochloride (2.31 g) as a white powder.

reactant | N-(t-butoxycarbonyl)-2(S)-acetylamino-β-alanine benzyl ester | 3.44 g | C(C1=CC=CC=C1)OC([C@H](CNC(=O)OC(C)(C)C)NC(C)=O)=O | C17H24N2O5
reactant | HCl | 4N | Cl | ClH
solvent | ethyl acetate | 35 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 25.5 ml | C(C)(=O)OCC | C4H8O2
product | 2(S)-acetylamino-β-alanine benzyl ester hydrochloride | 2.31 g | Cl.C(C1=CC=CC=C1)OC([C@H](CN)NC(C)=O)=O | InChI=1S/C12H16N2O3.ClH/c1-9(15)14-11(7-13)12(16)17-8-10-5-3-2-4-6-10;/h2-6,11H,7-8,13H2,1H3,(H,14,15);1H/t11-;/m0./s1
